US08486962B2
Methyl iodide (1.6 g, 11.26 mmol) was added to a solution of 2-oxo-2-(2-phenyl-indolizin-3-yl)-N-(4-thiomorpholin-4-yl-phenyl)-acetamide (1 g, 2.2 mmol) in anhydrous THF (25 ml) and then heated to reflux for 8 hr. The reaction mixture was cooled and the resultant precipitate was filtered and washed with cold THF. The solid was dried at 40° C. yielding 1-methyl-4-{4-[2-oxo-2-(2-phenyl-indolizin-3-yl)-acetylamino]-phenyl}-thiomorpholin-1-ium iodide (600 mg, 58%).

reactant | Methyl iodide | 11.26 mmol, 1.6 g | CI | CH3I
reactant | 2-oxo-2-(2-phenyl-indolizin-3-yl)-N-(4-thiomorpholin-4-yl-phenyl)-acetamide | 2.2 mmol, 1 g | O=C(C(=O)NC1=CC=C(C=C1)N1CCSCC1)C1=C(C=C2C=CC=CN12)C1=CC=CC=C1 | C26H23N3O2S
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 1-methyl-4-{4-[2-oxo-2-(2-phenyl-indolizin-3-yl)-acetylamino]-phenyl}-thiomorpholin-1-ium iodide | 600 mg, 58% | [I-].C[S+]1CCN(CC1)C1=CC=C(C=C1)NC(C(C1=C(C=C2C=CC=CN12)C1=CC=CC=C1)=O)=O | InChI=1S/C27H25N3O2S.HI/c1-33-17-15-29(16-18-33)22-12-10-21(11-13-22)28-27(32)26(31)25-24(20-7-3-2-4-8-20)19-23-9-5-6-14-30(23)25;/h2-14,19H,15-18H2,1H3;1H
